US07754717B2
To a 25 mL round-bottomed flask was added N3-(6-aminopyridin-3-yl)-N1-(2-cyclopentylethyl)-4-methylisophthalamide (0.19 g, 0.52 mmol) and Triethylamine (0.18 ml, 1.3 mmol) to stir at 0° C. Isovaleryl chloride (0.14 ml, 1.0 mmol) was added to the solution dropwise. The reaction was allowed to stir for one hour. At which time was shown to be at completion by LC/MS. DI water was added to the reaction. The reaction was transferred to a separatory funnel, where the aqueous layer was extracted 3 times with DCM. The combined organic layers were washed with brine, saturated NaHCO3, dried with MgSO4, filtered, and concentrated. The crude product was adsorbed onto a plug of silica gel and chromatographed through a Biotage pre-packed silica gel column (25M), eluting with a gradient of 1% to 10% MeOH in CH2Cl2, to provide N1-(2-cyclopentylethyl)-4-methyl-N3-(6-(3-methylbutanamido)pyridin-3-yl)isophthalamide as a white solid. MS (ESI, pos. ion) m/z: 451.3 (M+1).

reactant | N3-(6-aminopyridin-3-yl)-N1-(2-cyclopentylethyl)-4-methylisophthalamide | 0.52 mmol, 0.19 g | NC1=CC=C(C=N1)NC(C=1C=C(C(=O)NCCC2CCCC2)C=CC1C)=O | C21H26N4O2
reactant | Triethylamine | 1.3 mmol, 0.18 ml | C(C)N(CC)CC | C6H15N
reactant | Isovaleryl chloride | 1.0 mmol, 0.14 ml | C(CC(C)C)(=O)Cl | C5H9ClO
solvent | DI water | O | H2O
product | N1-(2-cyclopentylethyl)-4-methyl-N3-(6-(3-methylbutanamido)pyridin-3-yl)isophthalamide | C1(CCCC1)CCNC(C1=CC(C(=O)NC=2C=NC(=CC2)NC(CC(C)C)=O)=C(C=C1)C)=O | C26H34N4O3
